US06048979
N-Benzhydryl-ethanolamine
In a 500 mL round bottom flask equipped with a condenser and a thermometer, 2-choroethan-1-ol (23.3 grams, 0.39 mol, Kodak), α-aminodiphenylmethane (82.0 grams, 0.45 mol, Fluka), and water (17 mL) were placed. The mixture was heated on a steam bath (ca. 90° C.) for six hours. After cooling to ambient temperature, NaOH (15 grams, 0.37 mol) was added and the mixture heated on a steam bath for 45 minutes at ca. 90° C. Water (50 mL) was then added to the solution. The resulting two-layered mixture was extracted with two 50 mL portions of toluene. The combined toluene extracts were dried over sodium hydroxide pellets and the toluene then removed by rotary evaporation at reduced pressure. The residue was fractionally distilled using a 7.5 inch Vigreux column. The fraction boiling at 175-177° C./2 mm pressure was collected and then recrystallized from hexane. Yield 39.0 g (59% yield). 1H NMR (δ, 360 MHz, CDCl3) 2.32 (bs, 2H, --OH & --NH), 2.74 (m, 2H, --NCH2CH2O--), 3.64 (m, 2H, --NCH2CH2O--) 4.84 (s, 1H, CHPh2) and 7.30 (m, 10H, aromatic H); 13C NMR (δ, 90 MHz, {1H}, CDCl3); 49.5 (--NCH2CH2O--), 61.5 (--NCH2CH2O--) 67.0 (CHPh2), 127.2, 127.3, 128.3 and 147.5 (CHPh2) mp 69-70° C. uncorrected.

reactant | 2-choroethan-1-ol | 0.39 mol, 23.3 grams | ClCCO | C2H5ClO
reactant | α-aminodiphenylmethane | 0.45 mol, 82.0 grams | C1=CC=C(C=C1)C(C2=CC=CC=C2)N | C13H13N
reactant | NaOH | 0.37 mol, 15 grams | [OH-].[Na+]
solvent | Water | 50 mL | O | H2O
solvent | water | 17 mL | O | H2O
product | N-Benzhydryl-ethanolamine | 59% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)NCCO | C15H17NO
